US05670656
Step 1 Preparation of 2,4-dibromo-N(4-trifluoromethylpyridin-2-yl)butanamide.
A solution of 2-amino-4-trifluoromethylpyridine (5.00 g) and triethylamine (3.43 g) in dry tetrahydrofuran (50 ml) was added dropwise, over ten minutes, to a stirred solution of 2,4-dibromobutanoyl chloride (9.51 g) in dry tetrahydrofuran (50 ml), whilst maintaining the temperature below 5° C. The mixture was allowed to stir overnight at room temperature, diluted with hydrochloric acid (1M) and extracted with ethyl acetate. The extracts were washed with brine, dried over magnesium sulphate and evaporated under reduced pressure. The residue was chromatographed on silica, using hexane-ethyl acetate (5:1) as eluant, to give the title compound (10.09 g, yellow gum) sufficiently pure for use in Step 2 below. Rechromatographed material had NMR (CDCl3): δ 2.57(1H,m); 2.74(1H,m); 3.62(2H,m); 4.71(1H,dd); 7.33(1H,dd); 8.49(3H,d+s); 8.84(1H,bs). MS: M+ 388.

reactant | 2-amino-4-trifluoromethylpyridine | 5.00 g | NC1=NC=CC(=C1)C(F)(F)F | C6H5F3N2
reactant | triethylamine | 3.43 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dibromobutanoyl chloride | 9.51 g | BrC(C(=O)Cl)CCBr | C4H5Br2ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1M | Cl | ClH
product | 2,4-dibromo-N(4-trifluoromethylpyridin-2-yl)butanamide | 10.09 g | BrC(C(=O)NC1=NC=CC(=C1)C(F)(F)F)CCBr | C10H9Br2F3N2O
